US05859153
Example 6. Preparation of 4-methylcatechol-(p-cresol) novolak
To a 1 liter, 3 necked round bottomed flask equipped with a paddle stirrer, condenser, thermometer and heating source, were added 135 g (0.80 mole) of 2,6-bis(hydroxymethyl)-4-methylphenol, followed by 9 g (0.10 moles) of oxalic acid and 200 g (1.61 moles) of 4-methylcatechol. To this mixture were added 400 g of water. The reaction mixture was stirred and heated to 70° C. Solution occurred when the temperature reached approximately 60° C. Then, the reaction mixture was heated to reflux and held at reflux for 4 hours. After 1 hour at reflux, the product began to separate.

reactant | 2,6-bis(hydroxymethyl)-4-methylphenol | 0.80 mole, 135 g | OCC1=C(C(=CC(=C1)C)CO)O | C9H12O3
reactant | oxalic acid | 0.10 moles, 9 g | C(C(=O)O)(=O)O | C2H2O4
reactant | 4-methylcatechol | 1.61 moles, 200 g | CC=1C=C(C(O)=CC1)O | C7H8O2
solvent | water | 400 g | O | H2O
product | 4-methylcatechol-(p-cresol) | C1=CC(=CC=C1O)C.CC=1C=C(C(O)=CC1)O | InChI=1S/C7H8O2.C7H8O/c1-5-2-3-6(8)7(9)4-5;1-6-2-4-7(8)5-3-6/h2-4,8-9H,1H3;2-5,8H,1H3
